US07393873B2
Under N2, a solution of N-(2-hydroxyethyl)aniline (500 mg, 3.65 mmol) and triethylamine (1 mL, 7.29 mmol) in THF (2 mL) was added slowly to a solution of triphosgene (360 mg, 1.21 mmol) in THF (2 mL) at 0° C. The reaction mixture was stirred at 0° C. for one hour. The reaction was then quenched with a saturated solution of sodium bicarbonate (4 mL) and extracted with methylene chloride (3×4 mL). The organic extracts were dried over sodium sulfate and concentrated. Silica gel chromatography (5%-35% EtOAc/CH2Cl2) gave 3-phenyl-1,3-oxazolidin-2-one. LCMS (ES) m/z 164.2 (M+H)+.

reactant | N-(2-hydroxyethyl)aniline | 3.65 mmol, 500 mg | OCCNC1=CC=CC=C1 | C8H11NO
reactant | triethylamine | 7.29 mmol, 1 mL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 1.21 mmol, 360 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-phenyl-1,3-oxazolidin-2-one | C1(=CC=CC=C1)N1C(OCC1)=O | C9H9NO2
